US06083961
To a solution of 3-nitrobenzene-1,2-diol (2.78 g) and 3,4-dihydro-2H-pyrane (1.81 g) in benzene (39 ml) was added p-toluenesulfonic acid monohydrate (5 mg) at ambient temperature, and the mixture was stirred for 24 hours. The reaction mixture was washed with saturated sodium bicarbonate solution, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (chloroform-methanol) and crystallized with n-hexane to give 2-nitro-6-(tetrahydropyran-2-yloxy)phenol (2.32 g).

reactant | 3-nitrobenzene-1,2-diol | 2.78 g | [N+](=O)([O-])C1=C(C(=CC=C1)O)O | C6H5NO4
reactant | 3,4-dihydro-2H-pyrane | 1.81 g | O1CCCC=C1 | C5H8O
solvent | benzene | 39 ml | C1=CC=CC=C1 | C6H6
catalyst | p-toluenesulfonic acid monohydrate | 5 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 2-nitro-6-(tetrahydropyran-2-yloxy)phenol | 2.32 g | [N+](=O)([O-])C1=C(C(=CC=C1)OC1OCCCC1)O | C11H13NO5
